US06579868B1
6-Chloro-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl-amine (960 g) was dissolved in 9.6 liters of tetrahydrofuran and then 774.3 g of cuprous iodide and 1.49 liters of diiodomethane were added thereto. Isoamyl nitrite (1.49 liters) was added dropwise during 1 hour into the mixture with heating under reflux. The reaction solution was heated under reflux for 15 minutes, cooled, diluted with 4 liters of ethyl acetate and then filtered through Celite followed by washing with ethyl acetate three times (3×2 liters). The filtrate and the washings were combined and washed with 8 liters of water and 8 liters of brine. The organic layer was dried over 2 kg of anhydrous sodium sulfate and concentrated to about 3 liters. The concentrated solution was diluted with 10 liters of hexane and the resulting crystals were filtered and washed with 1 liter of hexane. The crystals were then dried at 50° C. for 4 hours to give 1076 g of 6-chloro-8-(3-fluorophenyl)-2-iodo-9-methyl-9H-purine. The yield was 75%.

reactant | 6-Chloro-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl-amine | 960 g | ClC1=C2N=C(N(C2=NC(=N1)N)C)C1=CC(=CC=C1)F | C12H9ClFN5
reactant | diiodomethane | 1.49 liters | ICI | CH2I2
reactant | Isoamyl nitrite | 1.49 liters | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | 9.6 liters | O1CCCC1 | C4H8O
solvent | ethyl acetate | 4 liters | C(C)(=O)OCC | C4H8O2
product | 6-chloro-8-(3-fluorophenyl)-2-iodo-9-methyl-9H-purine | 1076 g, yield was 75% | ClC1=C2N=C(N(C2=NC(=N1)I)C)C1=CC(=CC=C1)F | C12H7ClFIN4
